US06300344B1
The mixture of (1R)-4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butylamine (5.8 g), 5-tert-butyldiphenylsilyloxy-1-tetralone (11 g) and p-toluenesulphonic acid (32 mg) in toluene (150 ml) was heated under reflux in Dean-Stark apparatus for 48 hours. After the solvent was removed in vacuo, the residue was dissolved in a mixture of methanol (50 ml) and THF (200 ml) and NaBH4(0.4 g) was added to the solution at −78° C. After being stirred for 4 hours at the same temperature, the solution was allowed to stand at the room temperature for 30 minutes, then poured into the mixture of ethyl acetate and water. The organic layer was washed with water and brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford (1R)-1-[[(1R)-4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butyl]amino]-5-tert-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (10.2 g).

reactant | (1R)-4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butylamine | 5.8 g | OCCC[C@H](C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)N | C19H20N2O2
reactant | 5-tert-butyldiphenylsilyloxy-1-tetralone | 11 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCCC(C2=CC=C1)=O | C26H28O2Si
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulphonic acid | 32 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (1R)-1-[[(1R)-4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butyl]amino]-5-tert-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 10.2 g | OCCC[C@H](C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)N[C@@H]1CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C45H48N2O3Si
